US08541596B2
N-(4-(Methylthio)benzyl)-N-(cyclohexylmethyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-cyclohexylmethyl-benzimidazol-5-amine (115 mg; 0.5 mmol; 1 eq.), 4-methylthiobenzylbromide (120 mg; 0.55 mmol; 1.1 eq.) and K2CO3 (76 mg; 0.55 mmol; 1.1 eq.) according to method 6; Yield: 0.068 g (37.3%); MS m/z: 366.4 [M+H]+; 1H-NMR (400 MHz, DMSO d6): δ 0.90-1.00 (m, 2H); 1.13-1.23 (m, 3H); 1.61-1.76 (m, 6H); 2.41 (s, 3H); 3.24 (d, 2H, 3J=6.6 Hz); 4.52 (s, 2H); 6.67-6.69 (m, 2H); 7.12-7.18 (m, 4H); 7.32-7.34 (m, 1H); 7.89 (s, 1H); 11.84 (br s, 1H); HPLC (METHOD [A]): rt 18.51 min (97.8%)

reactant | N-cyclohexylmethyl-benzimidazol-5-amine | 0.5 mmol, 115 mg, 1 eq. | C1(CCCCC1)CNC1=CC2=C(N=CN2)C=C1 | C14H19N3
reactant | 4-methylthiobenzylbromide | 0.55 mmol, 120 mg, 1.1 eq. | CSC1=CC=C(CBr)C=C1 | C8H9BrS
reactant | K2CO3 | 0.55 mmol, 76 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-(Methylthio)benzyl)-N-(cyclohexylmethyl)-1H-benzo[d]imidazol-5-amine | CSC1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2CCCCC2)C=C1 | C22H27N3S
